US07691882B2
5-(4-Fluoro-phenoxy)-thiophene-2-carbaldehyde
To a tetrahydrofuran (150 mL) solution of 5-(4-fluoro-phenoxy)-thiophene-2-carbonitrile (6.10 g, 27.8 mmol) described in Manufacturing Example 91-1-1 was added dropwise diisobutyl aluminum hydride (0.97 M n-hexane solution, 43.0 mL, 41.7 mmol) on a dry ice-ethanol bath (−78° C.) under nitrogen atmosphere, which was stirred for 2 hours at room temperature. The reaction solution was added to water, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (3.4 g, 55.0%).

reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | 5-(4-fluoro-phenoxy)-thiophene-2-carbonitrile | 27.8 mmol, 6.10 g | FC1=CC=C(OC2=CC=C(S2)C#N)C=C1 | C11H6FNOS
reactant | diisobutyl aluminum hydride | 41.7 mmol, 0.97 M, 43.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | water | O | H2O
product | 5-(4-Fluoro-phenoxy)-thiophene-2-carbaldehyde | 3.4 g, 55.0% | FC1=CC=C(OC2=CC=C(S2)C=O)C=C1 | C11H7FO2S
